.title NAND3 extracted-layout transient

.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include /home/eamtastudent/EAMTA2026-VLSI/netlist/nand3_extracted_065621_xsim.spice

* Supplies
VVSS VSS 0 0
VVDD VDD VSS 1.2

* Inputs
VVA VA VSS PULSE(0 1.2 1n 50p 50p 10n 20n)
VVB VB VSS PULSE(0 1.2 1n 50p 50p 20n 40n)
VVC VC VSS PULSE(0 1.2 1n 50p 50p 40n 80n)

* Extracted NAND3
* extracted netlist: .SUBCKT nand3 VSS VA VB VC VDD VOUT
XU_NAND3_EXT VSS VA VB VC VDD VOUT nand3

* Load
CLOAD VOUT VSS 1f

.tran 20p 180n

.control
set wr_singlescale
run
write /home/eamtastudent/EAMTA2026-VLSI/verification/testbenches/nand3/results/tb_nand3_extracted.raw
wrdata /home/eamtastudent/EAMTA2026-VLSI/verification/testbenches/nand3/results/tb_nand3_extracted.txt time v(VA) v(VB) v(VC) v(VOUT)
quit
.endc

.end
